2197-05-20 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -HCT stable 27-> 24 -> 25 ->24
   -lasix 20 PO x1 and neg 1.7L
   -taking clear liquids
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-5-20**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 99 (92 - 109) bpm
   BP: 104/48(62) {76/28(34) - 111/57(66)} mmHg
   RR: 17 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  1,017 mL
                                                                     69 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    157 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                    670 mL
   Urine:
                                                                  2,710 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,693 mL
                                                                   -601 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.36/44/86.[**Numeric Identifier 253**]/25/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   69 K/uL
   8.3 g/dL
   85 mg/dL
   1.7 mg/dL
   25 mEq/L
   2.8 mEq/L
   52 mg/dL
   104 mEq/L
   141 mEq/L
   23.7 %
   25.1 K/uL
        [image002.jpg]
                             [**2197-5-17**]  07:44 PM
                             [**2197-5-18**]  12:09 AM
                             [**2197-5-18**]  04:02 AM
                             [**2197-5-18**]  05:23 PM
                             [**2197-5-19**]  12:31 AM
                             [**2197-5-19**]  07:17 AM
                             [**2197-5-19**]  10:52 AM
                             [**2197-5-19**]  03:13 PM
                             [**2197-5-19**]  11:52 PM
                             [**2197-5-20**]  04:36 AM
   WBC
   25.8
   25.3
   25.1
   Hct
   26.3
   26.1
   26.6
   23.1
   27.0
   27
   24.2
   25.3
   24.7
   23.7
   Plt
   49
   58
   60
   69
   Cr
   2.0
   1.9
   1.7
   TCO2
   26
   Glucose
   91
   118
   102
   85
   Other labs: PT / PTT / INR:13.9/28.4/1.2, Lactic Acid:1.0 mmol/L,
   Albumin:3.6 g/dL, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   [**Age over 90 **]F with history of bleeding gastric ulcers, MDS, pulmonary fibrosis
   and HTN presenting with anemia and GI bleed.
   .
   GI bleed: Upper GI bleed found on endoscopy.  Patient had another
   episode of duodenal bleeding yesterday.  Was another lesion, was
   cauterized and had epinephrine injected around site.  Patient has not
   had any further melanotic bowel movements this morning.  Patient has
   remained hemodynamically stable.  HCT has been stable since
   transfusion.
   -Check q4hrs HCT for now, transition to q8hrs
   -Active T & S
   -IV PPI [**Hospital1 **]
   .
   Atrial Fibrillation: Apparently new.  Currently rate controlled, after
   fluid rescusitation. BP stable. Has evidence of right sided failure on
   exam with elevated JVP and lower extremity edema.  Oxygenating well, no
   evidence of decompensated pulmonary edema. AF may be due to stress of
   recent acute bleed, it is possible the blood loss is subscute and that
   this triggered AF 10 days ago leading to the CHF and LE edema.  Will
   focus on monitoring bleeding and hemodynamic stability in short term,
   if resuscitation and cessation of bleeding does not resolve AF will
   need to look into other etiologies. TTE showed 4+ TR, RV dysfx, right
   dilated with mod free wall  hypokenesis, LA mod dilated, mod [**Last Name (un) 5490**].
   - Continue to monitor
   - Poor candidate for anticoagulation
   .
   MDS:
   -Unclear recent hematocrit baseline.  Was seen by Dr [**Last Name (STitle) 5900**] in [**3-6**], WBC
   reported as 20, other labs not in system.  Contact PCP for recent labs.
   -continue weekly procrit as outpatient
   .
   Pulmonary Fibrosis:
   -supplemental 02 prn on 2L at home
   .
   Crackles on exam: unclear if it is pulm fibrosis vs volume overload and
   CHF.  However, worsened in the setting of increased volume and thus
   likely acute  CHF.  Pt with no echo in the system.  Pt also with severe
   LE edema suggesting heart failure vs low albumin.
   -If patient is hemodynamically stable, consider diuresis 1-2L
   negative.
   .
   Hypertension : Hypotensive in ED in setting of hypovolemia.
   -Hold Maxzide for now, restart if continues to be hemodynamically
   stable.
   .
   FEN/Lytes:
   -advance diet as tolerated
   .
   Prophylaxis: Pneumoboots if pt can tolerate them however
   thrombocytopenia so clot risk is low.   No heparin SC given recent
   UGIB.
   .
   Code status: DNR/DNI
   .
   Dispo:  ICU for now
   .
   Communication: [**First Name8 (NamePattern2) 528**] [**Known lastname 5901**], [**Telephone/Fax (1) 5902**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-5-18**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: